US08076516B2
Deprotection of tert-butyl 2-(3-(thiophen-2-ylethynyl)phenoxy)ethylcarbamate with HCl-dioxane following the method used in Example 13 gave 2-(3-(thiophen-2-ylethynyl)phenoxy)ethanamine hydrochloride as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.14 (br s, 3H), 7.66 (dd, J=5.2, 1.2 Hz, 1H), 7.40 (dd, J−3.6, 1.2 Hz, 1H), 7.14 (dd, J=7.6, 1.2 Hz, 1H), 7.10-7.12 (m, 2H), 7.03 (ddd, J=8.4, 2.4, 1.2 Hz, 1H), 4.19 (t, J=5.2 Hz, 2H), 3.17 (t, J=5.2, 2H).

reactant | tert-butyl 2-(3-(thiophen-2-ylethynyl)phenoxy)ethylcarbamate | S1C(=CC=C1)C#CC=1C=C(OCCNC(OC(C)(C)C)=O)C=CC1 | C19H21NO3S
reactant | HCl dioxane | Cl.O1CCOCC1
product | 2-(3-(thiophen-2-ylethynyl)phenoxy)ethanamine hydrochloride | Cl.S1C(=CC=C1)C#CC=1C=C(OCCN)C=CC1 | InChI=1S/C14H13NOS.ClH/c15-8-9-16-13-4-1-3-12(11-13)6-7-14-5-2-10-17-14;/h1-5,10-11H,8-9,15H2;1H
